US06930208B2
Step 2: 2,4-Dibromo-3-(ethylcarbonylmethoxy)benzoic acid
1.280 g (3.20 mmol) of ethyl 2,4-dibromo-3-(ethylcarbonylmethoxy)benzoate were dissolved in 15 ml of THF and 15 ml of water, and 0.143 g (3.6 mmol) of NaOH was added. The mixture was stirred at RT for 12 h and then evaporated to dryness. The residue was taken up in water, and 6 N HCl was added. The resulting precipitate was filtered off with suction and dried. This gave 2,4-dibromo-3-(ethylcarbonylmethoxy)benzoic acid in the form of a white solid.

reactant | ethyl 2,4-dibromo-3-(ethylcarbonylmethoxy)benzoate | 3.20 mmol, 1.280 g | BrC1=C(C(=O)OCC)C=CC(=C1OCC(=O)CC)Br | C13H14Br2O4
reactant | NaOH | 3.6 mmol, 0.143 g | [OH-].[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
product | 2,4-Dibromo-3-(ethylcarbonylmethoxy)benzoic acid | BrC1=C(C(=O)O)C=CC(=C1OCC(=O)CC)Br | C11H10Br2O4
